US06642229B2
To a degassed solution of 7-methyl-3-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]imidazo[1,2-a]pyrimidine (0.1 g, 0.29 mmol) in 1,4-dioxane (3 ml) was added 3-(3-bromophenyl)-5-methyl-[1,2,4]oxadiazole (0.142 g, 0.59 mmol) (prepared as described in WO 95/27692), potassium phosphate (189 mg, 0.89 mmol) and tetrakis(triphenylphosphine)palladium(0) (17 mg, 15 μmol) and the mixture heated at 90° C. for 18 h. After cooling to ambient temperature the solvent was evaporated in vacuo and the residue stirred with 10% methanol in dichloromethane. The solid material was removed by filtration and the filtrate applied to two preparative TLC plates (silica gel) and eluted with 5% methanol in dichloromethane. The appropriate band was collected and processed, affording a solid which was recrystallised from dichloromethane/ethyl acetate/isohexane to give 7-methyl-3-[3′-(5-methyl-[1,2,4]oxadiazol-3-yl)biphenyl-3-yl]imidazo[1,2-a]pyrimidine as a cream coloured solid (32 mg): δH (400 MHz, CDCl3) 2.67 (3H, s), 2.68 (3H, s), 6.79 (1H, d, J 7), 7.60-7.80 (5H, m), 7.87 (1H, s), 7.92 (1H, m), 8.10 (1H, dd, J 7 and 1), 8.32 (1H, s), 8.52 (1H, d, J 7); m/z (ES+) 368 (M++H).

reactant | 7-methyl-3-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]imidazo[1,2-a]pyrimidine | 0.29 mmol, 0.1 g | CC1=NC=2N(C=C1)C(=CN2)C2=CC(=CC=C2)B2OC(C(O2)(C)C)(C)C | C19H22BN3O2
reactant | 3-(3-bromophenyl)-5-methyl-[1,2,4]oxadiazole | 0.59 mmol, 0.142 g | BrC=1C=C(C=CC1)C1=NOC(=N1)C | C9H7BrN2O
reactant | potassium phosphate | 0.89 mmol, 189 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 15 μmol, 17 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-methyl-3-[3′-(5-methyl-[1,2,4]oxadiazol-3-yl)biphenyl-3-yl]imidazo[1,2-a]pyrimidine | CC1=NC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)C2=CC(=CC=C2)C2=NOC(=N2)C | C22H17N5O
